US06632919B1
N-(2-Bocaminoethyl)-N-[3-oxo-2,3,-dihydropyridazin-6-yl-propionyl]glycine (Formula XI)
To a solution of methyl N-(2-Bocaminoethyl)-N-[3-oxo-2,3,-dihydropyridazin-6-yl-propionyl]glycinate (1.00 mmol, 382 mg) in THF (12.5 mL) was added LiOH (2M, aqueous, 2.0 mL). The solution was stirred at rt. for 15 minutes, additional water (10 mL) was added and the THF was removed in vacuo. The pH of the aqueous phase was adjusted to 3.0 by addition of HCl (2M, aqueous). The product was isolated by continuous extraction with dichloromethane (DCM) followed by evaporation in vacuo to give the desired product (215 mg, 80%) as a colorless powder (UVmax 287 nm). 1H NMR (DMSO-d6): δ 12.73 (s br and s vbr, 2H, NH and COOH), 7.38 (7.35) (d, J=9.7 Hz, 1H, arom.), 6.78 (d, J=9.7 Hz, 1H, arom.), 6.83 (6.70) (t, 1H, NH), 3.92 (4.11) (s, 2H, CH2), 3.39-3.27 (m, 2H, CH2), 3.08 (3.00) (q, 2H, CH2), 2.73-2.66 (m, 2H, CH2), 2.69-2.52 (m, 2H, CH2), 1.33 (1.36) (s, 9H, Boc). 13C NMR (DMSO-d6): δ 171.50 (171.93), 171.04 (171.38), 160.39, 155.73, 146.88 (146.92), 134.41, 129.53, 77.99 (77.76), 47.44 (49.98), 47.61 (46.64), 38.31 (37.97), 30.05 (30.40), 29.31 (29.12), 28.24. FAB+ MS: 369.14 (M+H+, calc. for C16H24N4O6+H+ 369.1774).

reactant | methyl N-(2-Bocaminoethyl)-N-[3-oxo-2,3,-dihydropyridazin-6-yl-propionyl]glycinate | 1.00 mmol, 382 mg | C(=O)(OC(C)(C)C)NCCN(CC(=O)OC)C(CCC=1C=CC(NN1)=O)=O | C17H26N4O6
reactant | LiOH | 2M, 2.0 mL | [Li+].[OH-]
reactant | water | 10 mL | O | H2O
solvent | THF | 12.5 mL | C1CCOC1 | C4H8O
product | N-(2-Bocaminoethyl)-N-[3-oxo-2,3,-dihydropyridazin-6-yl-propionyl]glycine | 215 mg, 80% | C(=O)(OC(C)(C)C)NCCN(CC(=O)O)C(CCC=1C=CC(NN1)=O)=O | C16H24N4O6
